US04960946
To a suspension of lithium aluminum hydride (0.1 g, 0.0024 mol) in tetrahydrofuran (5 mL) cooled to 0~C was added 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohex-5-en-1-one (1.0 g, 0.0048 mol) in tetrahydrofuran (5 mL). The mixture warmed on standing 16 hours and was treated with 10% sodium hydroxide solution. Subsequent workup yielded 3-(3-methoxy-3-methylbut-1yl)-5-methylcyclohex-5-en-1-ol as a mixture of two diastereoisomers (ratio: 6.5:93.5, 0.853 g). This material was determined to possess green, woody notes NMR(CDC13)δ0.8-1.1(m,2H),1.2(s,6H), 1.3-1.6(m,5H), 1.7(s,1H), 1.9-2.2(m,5H), 3.2(s,3H), 4.2(brs,1H), 5.4(s,1H); IR(neat) 3400, 2975, 2925, 1670, 1380, 1360, 1090 cm-1 ; MS(m/e) 43, 73, 91, 106, 124, 147, 162, 180, 194.

reactant | lithium aluminum hydride | 0.0024 mol, 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohex-5-en-1-one | 0.0048 mol, 1.0 g | COC(CCC1CC(C=C(C1)C)=O)(C)C | C13H22O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(3-methoxy-3-methylbut-1yl)-5-methylcyclohex-5-en-1-ol | COC(CCC1CC(C=C(C1)C)O)(C)C | C13H24O2
